US04362728
A solution of 5-[2-(2,2,2-trifluoroethyl)-guanidino]-3-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]-1,2,4-thiadiazole in 33% w/v methylamine in ethanol (4 ml.) was kept at 20° for 18 hours. Volatile material was evaporated in vacuo and the crude material was fractionated on a silica column (26 cm.×1 cm. diameter) eluted with a methanol/ethyl acetate 1:50 v/v to give 5-[2-(2,2,2-trifluoroethyl)guanidino]-3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-1,2,4-thiadiazole. The n.m.r. spectrum in d6 dimethylsulphoxide using tetramethyl silane as an internal standard (δ=0) had the following resonances (δ):- 4.2 (2H, quartet); 3.8 (2H, singlet); 3.3 (2H, multiplet); 2.7 (2H, triplet).

reactant | 5-[2-(2,2,2-trifluoroethyl)-guanidino]-3-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]-1,2,4-thiadiazole | FC(CN=C(NC1=NC(=NS1)CSCCNC(SC)=NC#N)N)(F)F | C11H15F3N8S3
reactant | methylamine | CN | CH5N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-[2-(2,2,2-trifluoroethyl)guanidino]-3-[2-(2-cyano-3-methylguanidino)-ethylthiomethyl]-1,2,4-thiadiazole | FC(CN=C(NC1=NC(=NS1)CSCCNC(=NC#N)NC)N)(F)F | C11H16F3N9S2
